US07592363B2
2-Benzyl-3-phenyl-7-trifluoromethyl-2H-indazole (353 mg, 1 mmol), prepared similarly to that of Example 1, was treated with 3 ml of 70% aq H2SO4 at 90° C. for 4 hours. After cooling, 10 volumes of water were added and the product was extracted with dichloromethane. Flash column chromatography (SiO2, dichloromethane as an eluant) afforded 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid in 60% yleld. The 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid (1.64 g, 5 mmol) was dissolved in 20 ml of pyridine followed by addition of 1-(-3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.34 g, 7 mmol) and N,O-dimethyhydroxylamine hydrochloride (585 mg, 6 mmol). The reaction mixture was stirred at room temperature overnight. Pyridine was evaporated and the residue was shaken with 0.5M aq HCl and dichloromethane. The product was extracted with dichloromethane, and flash column chromatography (SiO2, dichloromethane as an eluant) afforded 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid methoxy-methyl-amide in 79% yleld.

reactant | 2-Benzyl-3-phenyl-7-trifluoromethyl-2H-indazole | 1 mmol, 353 mg | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=CC=C1)C(F)(F)F | C21H15F3N2
reactant | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
reactant | water | O | H2O
product | 2-benzyl-3-phenyl-2H-indazole-7-carboxylic acid | C(C1=CC=CC=C1)N1N=C2C(=CC=CC2=C1C1=CC=CC=C1)C(=O)O | C21H16N2O2
